US08563714B2
Crude 5-(tetrahydro-pyran-2-yloxymethyl)-furan-2-carbaldehyde (171 g) was dissolved in THF (1 L) and cooled to 1° C. Methylmagnesium chloride (3 M in THF, 325 mL, 0.97 mol) was then added while keeping the internal temperature below 5° C. After the addition, the reaction mixture was stirred at rt for 1 h. Water (1 L), TBME (1 L) and 40% aq. citric acid (200 mL) were added, the layers separated and the org. layer washed with water (500 mL) and evaporated to dryness to give crude 1-[5-(tetrahydro-pyran-2-yloxymethyl)-furan-2-yl]-ethanol. Part of the crude material (96 g, 0.43 mol) was dissolved in CH2Cl2 (1 L) and treated with MnO2 (371 g, 4.26 mol) at rt. The reaction mixture was heated to 45° C. and stirred at this temperature for 24 h. The mixture was then filtered over celite and the filter cake washed with CH2Cl2. The filtrate was evaporated to dryness to give crude 1-[5-(tetrahydro-pyran-2-yloxymethyl)-furan-2-yl]-ethanone as a yellow oil.

reactant | 5-(tetrahydro-pyran-2-yloxymethyl)-furan-2-carbaldehyde | 171 g | O1C(CCCC1)OCC1=CC=C(O1)C=O | C11H14O4
reactant | Methylmagnesium chloride | 0.97 mol, 3 M, 325 mL | C[Mg]Cl
reactant | Water | 1 L | O | H2O
reactant | citric acid | 200 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | TBME | 1 L | CC(C)(C)OC | C5H12O
product | 1-[5-(tetrahydro-pyran-2-yloxymethyl)-furan-2-yl]-ethanol | O1C(CCCC1)OCC1=CC=C(O1)C(C)O | C12H18O4
